US07071175B1
2-(2-tert-Butoxycarbonylamino-thiazol-5-ylmethyl)-malonic acid diethyl ester (158 mg; 0.43 mmol) was dissolved in ethanol (1 mL) and THF (0.5 mL), and a solution of KOH (24 mg; 0.43 mmol) in ethanol (0.14 mL) was added at 0° C. The reaction mixture was stirred at room temperature for 96 hours, and then poured onto ice-water. The aqueous phase was extracted with diethyl ether, acidified to pH 3 by addition of 0.5 M HCl, and extracted with diethyl ether. The combined organic phases were dried and concentrated to yield 2-(2-tert-butoxycarbonylamino-thiazol-5-ylmethyl)-malonic acid monoethyl ester (97 mg, 66.4%).

reactant | 2-(2-tert-Butoxycarbonylamino-thiazol-5-ylmethyl)-malonic acid diethyl ester | 0.43 mmol, 158 mg | C(C)OC(C(C(=O)OCC)CC1=CN=C(S1)NC(=O)OC(C)(C)C)=O | C16H24N2O6S
reactant | KOH | 0.43 mmol, 24 mg | [OH-].[K+]
solvent | ethanol | 1 mL | C(C)O | C2H6O
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | ethanol | 0.14 mL | C(C)O | C2H6O
product | 2-(2-tert-butoxycarbonylamino-thiazol-5-ylmethyl)-malonic acid monoethyl ester | 97 mg, 66.4% | C(C)OC(C(C(=O)O)CC1=CN=C(S1)NC(=O)OC(C)(C)C)=O | C14H20N2O6S
